US08048897B2
(3) Synthesis of 1-[4-(2-Benzyloxybenzyl)phenyl]cyclo-pentanol
In a nitrogen stream, an n-butyllithium hexane solution (1.59 M, 294 mL) was added dropwise to a solution of 1-benzyloxy-2-(4-bromobenzyl)benzene (1.5 g, 4.25 mmol) in THF (16.5 mL) at −78° C. and the mixture was stirred at the same temperature for 30 minutes. To this mixture, a solution of cyclopentanone (357 mg, 4.25 mmol) in THF (4 mL) was added dropwise at −78° C. The reaction mixture was stirred at the same temperature for 50 minutes and at 0° C. for one hour, and then a saturated ammonium chloride aqueous solution was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:10)] to obtain the title compound (1.14 g, 75%) as a colorless oil.

reactant | n-butyllithium hexane | 1.59 M, 294 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyloxy-2-(4-bromobenzyl)benzene | 4.25 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC1=CC=C(C=C1)Br | C20H17BrO
reactant | cyclopentanone | 4.25 mmol, 357 mg | C1(CCCC1)=O | C5H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 16.5 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-[4-(2-Benzyloxybenzyl)phenyl]cyclo-pentanol | 1.14 g, 75% | C(C1=CC=CC=C1)OC1=C(CC2=CC=C(C=C2)C2(CCCC2)O)C=CC=C1 | C25H26O2
